US06884821B1
Ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 4-chloro-2-methoxybenzoic acid were treated in the same manners as in Example 20d) and then in Example 1d), to give 3-(3-{[(4-chloro-2-methoxybenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoic acid.

reactant | Ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | 4-chloro-2-methoxybenzoic acid | ClC1=CC(=C(C(=O)O)C=C1)OC | C8H7ClO3
product | 3-(3-{[(4-chloro-2-methoxybenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoic acid | ClC1=CC(=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=C1)OC | C22H26ClNO6
